US07115598B2
f) 5-[4-[1-(2-Amino-4-chlorophenyl)ethyl]-3-(4-chlorophenyl)-7-iodo-2,5-dioxo-1,4-benzodiazepin-1-yl]valeric acid tert-butyl ester
A solution of ammonium chloride (220 mg, 4.3 mmol) in water (2.5 mL) was added to a solution of 5-[3-(4-chlorophenyl)-4-[1-(4-chloro-2-nitrophenyl)ethyl]-7-iodo-2,5-dioxo-1,4-benzodiazepin-1-yl]valeric acid tert-butyl ester (230 mg, 0.306 mmol) in ethanol (5 mL). The resulting solution was heated to 80° C. and iron (200 mg, 3.58 mmol) was added. After 2 h at 80° C., the reaction mixture was cooled at room temperature, filtered through celite and evaporated. The residue was partitioned between ethyl acetat and water, dried (Na2SO4), and evaporated. Chromatography on silica (EtOAc/hexanes, 1:1) afforded the title compound (210 mg, 95%) as a colorless solid: 1H NMR (400 MHz, CDCl3) δ 1.44 (s, 9H, 3 CH2)), 1.57–1.63 (m, 4H, 2 CH2), 1.74 (d, J=7.2 Hz, 3H, CH3), 2.24 (t, J=7.2 Hz, 2H, CH2), 3.63–3.70 (m, 1H, CH), 4.28–4.35 (m, 1H, CH), 4.75 (br s, 2H, NH2), 5.28 (s, 1H, CH), 6.27 (q, J=7.2 Hz, 1H, CH), 6.60–6.69 (m, 5H, ArH), 6.90 (d, J=9.2 Hz, 2H, ArH), 7.20 (d, J=8.4 Hz, 1H, ArH), 7.49 (dd, J=8.8 Hz, J=2.4 Hz, 1H, ArH), 7.93 (d, J=2.0 Hz, 1H, ArH). Mass spectrum (LCMS, ESI pos.): Calcd for C32H34Cl2IN3O4: 721.0; found: 722.0 (M+H)+.

reactant | ammonium chloride | 4.3 mmol, 220 mg | [Cl-].[NH4+]
reactant | 5-[3-(4-chlorophenyl)-4-[1-(4-chloro-2-nitrophenyl)ethyl]-7-iodo-2,5-dioxo-1,4-benzodiazepin-1-yl]valeric acid tert-butyl ester | 0.306 mmol, 230 mg | C(C)(C)(C)OC(CCCCN1C(C(N(C(C2=C1C=CC(=C2)I)=O)C(C)C2=C(C=C(C=C2)Cl)[N+](=O)[O-])C2=CC=C(C=C2)Cl)=O)=O | C32H32Cl2IN3O6
solvent | water | 2.5 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | iron | 3.58 mmol, 200 mg | [Fe] | Fe
product | 5-[4-[1-(2-Amino-4-chlorophenyl)ethyl]-3-(4-chlorophenyl)-7-iodo-2,5-dioxo-1,4-benzodiazepin-1-yl]valeric acid tert-butyl ester | 210 mg, 95% | C(C)(C)(C)OC(CCCCN1C(C(N(C(C2=C1C=CC(=C2)I)=O)C(C)C2=C(C=C(C=C2)Cl)N)C2=CC=C(C=C2)Cl)=O)=O | C32H34Cl2IN3O4
